US08202858B2
1-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-3-[2-methyl-4-(6-methyl-3,4-dihydro-2H-quinoline-1-carbonyl)-phenyl]-propan-1-one
DMAP (51 mg, 0.42 mmol) and WSCD (161 mg, 0.84 mmol) were added to a solution of 4-{3-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-3-oxo-propyl}-3-methyl-benzoic acid from Example E44 (150 mg, 0.42 mmol) in dichloromethane (10 ml) and triethylamine (0.176 ml, 1.26 mmol) and the mixture was stirred for 30 min at room temperature. 6-Methyl-1,2,3,4-tetrahydro-quinoline (67 mg, 0.46 mmol) was added and the mixture was stirred for 20 h at room temperature then solvents were removed in vacuo. The residue was redissolved in EtOAC, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by preparative HPLC (eluant; 0.5% 35% ammonia:9.5% methanol:90% dichloromethane) to give a white solid identified as the title compound (12 mg, 6%).

reactant | 4-{3-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-3-oxo-propyl}-3-methyl-benzoic acid | CC(CCN1CCN(CC1)C(CCC1=C(C=C(C(=O)O)C=C1)C)=O)(C)C | C21H32N2O3
reactant | triethylamine | 1.26 mmol, 0.176 ml | C(C)N(CC)CC | C6H15N
reactant | 6-Methyl-1,2,3,4-tetrahydro-quinoline | 0.46 mmol, 67 mg | CC=1C=C2CCCNC2=CC1 | C10H13N
catalyst | DMAP | 0.42 mmol, 51 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-3-[2-methyl-4-(6-methyl-3,4-dihydro-2H-quinoline-1-carbonyl)-phenyl]-propan-1-one | 12 mg, 6% | CC(CCN1CCN(CC1)C(CCC1=C(C=C(C=C1)C(=O)N1CCCC2=CC(=CC=C12)C)C)=O)(C)C | C31H43N3O2
